US04430355
5.0 gm (0.023 mol) of 5-ethyl-2-sulfamoyl-furan-3-carboxylic acid were admixed with 4.75 gm (0.023 mol of phosphorus pentachloride in 300 ml of anhydrous toluene, and the mixture was refluxed for 8 hours. After filtering, the filtrate was evaporated in vacuo and the residue was recrystallized from carbon tetrachloride, yielding 2.1 gm (46% of theory) of 5-ethyl-furo[3,2-d]isothiazole-3(2H)-one-1,1-dioxide.

reactant | 5-ethyl-2-sulfamoyl-furan-3-carboxylic acid | 0.023 mol, 5.0 gm | C(C)C1=CC(=C(O1)S(N)(=O)=O)C(=O)O | C7H9NO5S
reactant | phosphorus pentachloride | 0.023 mol | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5-ethyl-furo[3,2-d]isothiazole-3(2H)-one-1,1-dioxide | 2.1 gm, 46% | C(C)C1=CC=2C(NS(C2O1)(=O)=O)=O | C7H7NO4S
